US05026861
To a stirred slurry of 500 mg (12 mmol) of a 60% oil dispersion of sodium hydride (which had been washed with hexane) in 12 ml dry DMF under argon atmosphere was added 1.06 g (5.0 mmol) of N-phenyl-2-phenyl acetamide (IVa) in 5 mL dry DMF. Gas evolution had ceased after 30 minutes and 0.560 mL(5.0 mmol) of ethyl bromoacetate was added via syringe. The solution was stirred at 25° C. for 30 minutes, then warmed to 80° C. for 4 hours. The cooled solution was carefully poured into 200 mL H2O, washed with ether, filtered over celite and acidified to pH=2. The white precipitate was filtered, washed well with H2O and dried under high vacuum to give 1.04 g (4.0 mmol, 80% yield) of 1,3-diphenyl-2,4-pyrrolidinedione Ia, mp 285°-287° C.

reactant | sodium hydride | [H-].[Na+]
reactant | N-phenyl-2-phenyl acetamide | 5.0 mmol, 1.06 g | C1(=CC=CC=C1)NC(CC1=CC=CC=C1)=O | C14H13NO
reactant | ethyl bromoacetate | 5.0 mmol, 0.560 mL | BrCC(=O)OCC | C4H7BrO2
reactant | H2O | 200 mL | O | H2O
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1,3-diphenyl-2,4-pyrrolidinedione | 4.0 mmol, 1.04 g, 80% yield | C1(=CC=CC=C1)N1C(C(C(C1)=O)C1=CC=CC=C1)=O | C16H13NO2
